US06465504B1
3,5-Bis(2-hydroxyphenyl)-1-benzyl-1H-[1,2,4]triazole
5.0 g of 2-(2-hydroxyphenyl)benz[e][1,3]oxazin-4-one are boiled under reflux for 4 h with 3.4 g of benzylhydrazine hydrochloride and 5.9 ml of triethylamine in 50 ml of ethanol. The mixture is cooled, poured onto water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and concentrated on a rotary evaporator. The residue is crystallized from isopropanol. After drying, 3,5-bis(2-hydroxyphenyl)-1-benzyl-1H-[1,2,4]triazole remains as colorless crystals of m.p. 166-168° C.

reactant | 2-(2-hydroxyphenyl)benz[e][1,3]oxazin-4-one | 5.0 g | OC1=C(C=CC=C1)C=1OC2=C(C(N1)=O)C=CC=C2 | C14H9NO3
reactant | benzylhydrazine hydrochloride | 3.4 g | Cl.C(C1=CC=CC=C1)NN
reactant | triethylamine | 5.9 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3,5-Bis(2-hydroxyphenyl)-1-benzyl-1H-[1,2,4]triazole | OC1=C(C=CC=C1)C1=NN(C(=N1)C1=C(C=CC=C1)O)CC1=CC=CC=C1 | C21H17N3O2
